US04159979
pGlu-Ala-Lys(Xys)-Ser(Bzl)-Gln-Gly-Gly-NHNH2 (140 mg) is dissolved in dimethylformamide (5 ml). While the solution is cooled to -70° C., 6.51 N HCl-dioxane (0.05 ml) and isoamylnitrite (0.02 ml) are added. The mixture is stirred at -30° C. for 35 minutes and cooled again to -70° C., followed by addition of triethylamine (0.05 ml). HCl-H-Ser-Asn-OBut which is prepared by reducing Z-Ser-Asn-OBut (123 mg) is dissolved in dimethylformamide (2 ml) and this solution is added to the mixture, followed by addition of triethylamine (0.05 ml). The mixture is stirred between -15° C. and 5° C. for 30 hours. Insolubles are filtered off and the filtrate is distilled to evaporate the solvent. Ether is added and resulting powder is collected by filtration. Into a mixture of the powder and anisole contained in a cylinder of teflon resin, is introduced hydrogen fluoride (5 ml) and the mixture is stirred at 0° C. for one hour. Immediately the hydrogen fluoride is distilled off under reduced pressure and the residue is extracted twice-with water (10 ml each). The aqueous extract is washed three times with ether (3 ml each) and passed through a column (1.5×10 cm) of Amberlite IRA-410 (acetate form).

reactant | HCl dioxane | 6.51 N, 0.05 ml | Cl.O1CCOCC1
reactant | isoamylnitrite | 0.02 ml | C(CC(C)C)ON=O | C5H11NO2
reactant | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
reactant | Z-Ser-Asn-OBut | 123 mg | N([C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C19H27N3O7
reactant | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | HCl H-Ser-Asn-OBut | Cl.N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C | InChI=1S/C11H21N3O5.ClH/c1-11(2,3)19-10(18)7(4-8(13)16)14-9(17)6(12)5-15;/h6-7,15H,4-5,12H2,1-3H3,(H2,13,16)(H,14,17);1H/t6-,7-;/m0./s1
